US04118742
When the procedure of Example 72 was repeated using 1.2 g. (3.2 mmoles) of 1-dimethylaminosulfonyl-2-amino-6-(α-isopropyl-α-hydroxybenzyl)benzimidazole, 750 mg. of p-toluenesulfonic acid, and 100 ml. of chloroform, there was obtained 1-dimethylaminosulfonyl-2-amino-6-(α-isopropylidenebenzyl)benzimidazole.

reactant | 1-dimethylaminosulfonyl-2-amino-6-(α-isopropyl-α-hydroxybenzyl)benzimidazole | 3.2 mmoles | CN(S(=O)(=O)N1C(=NC2=C1C=C(C=C2)C(C2=CC=CC=C2)(O)C(C)C)N)C | C19H24N4O3S
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-dimethylaminosulfonyl-2-amino-6-(α-isopropylidenebenzyl)benzimidazole | CN(S(=O)(=O)N1C(=NC2=C1C=C(C=C2)C(C2=CC=CC=C2)=C(C)C)N)C | C19H22N4O2S
